US05102885
5-tert-butyl-4,5-dihydro-3-(4,4-dimethyl-1,3-dioxopentyl)-4-oxo-imidazo[1,5-a]quinoxaline
To a stirred mixture of ethyl 5-tert-butyl-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline-3-carboxylate (1.6 g, 5 mmol) and pinacolone (1.25 ml, 10 mmol) in dry tetrahydrofuran (THF) (30 ml) was added sodium hydride (200 mg, 80% in mineral oil, 6.9 mmol). The mixture was brought to reflux for 2 h, then cooled to room temperature and neutralized with acetic acid. After evaporation of the solvent the residue was partitioned between sat. aqueous NaHCO3 (10 ml) and methylene chloride (30 ml). The organic phase was dried over Na2SO4 and evaporated to give the title compound as yellow crystals. M.p. 190°-191 ° C. (Compound 1).

reactant | ethyl 5-tert-butyl-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline-3-carboxylate | 5 mmol, 1.6 g | C(C)(C)(C)N1C(C=2N(C3=CC=CC=C13)C=NC2C(=O)OCC)=O | C17H19N3O3
reactant | pinacolone | 10 mmol, 1.25 ml | CC(C(C)(C)C)=O | C6H12O
reactant | sodium hydride | 6.9 mmol, 200 mg | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-tert-butyl-4,5-dihydro-3-(4,4-dimethyl-1,3-dioxopentyl)-4-oxo-imidazo[1,5-a]quinoxaline | C(C)(C)(C)N1C(C=2N(C3=CC=CC=C13)C=NC2C(CC(C(C)(C)C)=O)=O)=O | C21H25N3O3
